US06020358
2-[1-(3-Ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]benzo[e]isoindoline-1,3-dione was prepared by the procedure of Example 8 from 1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethylamine (1.31 g, 4.79 mmol) and 1,2-naphthalic anhydride (950 mg, 4.79 mmol) in acetic acid (15 mL). The product was obtained as a yellow solid (1.65 g, 76% yield): mp, 158.0-159.5° C.; 1H NMR (DMSO-d6) δ 1.33 (t, J=6.9 Hz, 3H, CH3), 3.03 (s, 3H, CH3), 3.73 (s, 3H, CH3), 4.03 (q, J=6.9 Hz, 2H, CH2), 4.18 (dd, J=4.3, 14.3 Hz, 1H, CHH), 4.41 (dd, J=10.7, 14.4 Hz, 1H, CHH), 5.86 (dd, J=4.2, 10.3 Hz, 1H, NCH), 6.83-6.96 (m, 1H, Ar), 7.03-7.07 (m, 1H, Ar), 7.15 (br s, 1H, Ar), 7.70-7.9 (m, 3H, Ar), 8.15 (d, J=8.0 Hz, 1H, Ar), 8.39 (d, J=8.3 Hz, 1H, Ar), 8.76 (d, J=8.2 Hz, 1H, Ar); 13C NMR (DMSO-d6) δ 19.86, 46.29, 52.48, 58.35, 60.67, 69.03, 116.96, 117.57, 123.65, 124.97, 128.97, 131.40, 132.30, 134.15, 134.36, 134.94, 135.16, 135.89, 140.85, 11.42, 153.09, 154.06, 173.09, 173.82; Anal Calcd for C24H23NO6S: C, 63.56; H, 5.11; N, 3.09. Found: C, 63.33; H, 5.06; N, 2.95.

reactant | 1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethylamine | 4.79 mmol, 1.31 g | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N | C12H19NO4S
reactant | 1,2-naphthalic anhydride | 4.79 mmol, 950 mg | C1=CC=C2C(=C1)C=CC3=C2C(=O)OC3=O | C12H6O3
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 2-[1-(3-Ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]benzo[e]isoindoline-1,3-dione | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N1C(C=2C=CC3=C(C2C1=O)C=CC=C3)=O | C24H23NO6S
